US08008425B2
Synthesis of 2,5-bis(4-t-butylphenyl)-3,4-bis(octane-1-sulfonyl)thiophene
3,4-Bis(octane-1-sulfonyl)thiophene, cesium carbonate (2.4 equivalents), 1-bromo-4-t-butylbenzene (2.4 equivalents), biphenyl di t-butylphosphine (0.2 equivalent) and palladium acetate (0.1 equivalent) were placed in a reaction vessel. Under a nitrogen gas atmosphere, DMF was added, followed by heating at 150° C. for 7 hours. After completion of the reaction, the reaction mixture was filtered through Celite, and the residue was washed with ethyl acetate. The filtrate was washed with a 1 N aqueous solution of hydrochloric acid and then with 10% brine, anhydrous sodium sulfate was added to the organic layer to dry the same, and the solvent was distilled off. The thus-obtained crude product was purified through a silica gel column (hexane:ethyl acetate=99:1) to afford a white to brown solid.

reactant | 3,4-Bis(octane-1-sulfonyl)thiophene | C(CCCCCCC)S(=O)(=O)C1=CSC=C1S(=O)(=O)CCCCCCCC | C20H36O4S3
reactant | cesium carbonate | 2.4 equivalents | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-4-t-butylbenzene | 2.4 equivalents | BrC1=CC=C(C=C1)C(C)(C)C | C10H13Br
reactant | biphenyl di t-butylphosphine | 0.2 equivalent | C(C)(C)(C)PC(C)(C)C.C1(=CC=CC=C1)C1=CC=CC=C1
catalyst | palladium acetate | 0.1 equivalent | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2,5-bis(4-t-butylphenyl)-3,4-bis(octane-1-sulfonyl)thiophene | C(C)(C)(C)C1=CC=C(C=C1)C=1SC(=C(C1S(=O)(=O)CCCCCCCC)S(=O)(=O)CCCCCCCC)C1=CC=C(C=C1)C(C)(C)C | C40H60O4S3
